* Block 01: Pass Device
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* Device: sky130_fd_pr__pfet_g5v0d10v5 (HV 5V PMOS)
*   W = 100µm per instance, L = 0.5µm, 10 parallel instances
*   Total W = 1.0 mm
*
* Source = bvdd, Drain = pvdd, Gate = gate, Bulk = bvdd

.subckt pass_device gate bvdd pvdd

XM1  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM2  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM3  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM4  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM5  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM6  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM7  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM8  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM9  pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2
XM10 pvdd gate bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=2

.ends pass_device
